US07504392B2
7-[4(4-Chloro-phenoxymethyl)-benzenesulfonyl]-8-methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride (E107)
A solution of [4-(8-methoxy-3-methyl-2,3,4,5-tetrahydro-1-H-3-benzazepine-7-sulfonyl)-phenyl]-methanol D12 (0.12 g), 4-chlorophenol (0.042 g), triphenyl phosphine (0.087 g in tetrahydrofuran (5 mL) was treated with diisopropyl azodicarboxylate (0.066 g). The solution was stirred for 18 hour then the solvent was evaporated and the residue was purified by column chromatography on silica using 0-10% methanol (containing 0.5% aqueous ammonia)-dichloromethane to give the title compound E107, which was converted to the hydrochloride salt. 1H NMR: δ CDCl3 2.36 (3H, s), 2.55 (4H, m), 2.94 (4H, m), 3.73 (3H, s), 5.08 (2H, s) 6.64 (1H, s), 6.87 (2H, d), 7.22 (2H, d), 7.50 (2H, d) 7.84 (1H, s) 7.98 (2H, d). Mass Spectrum MH+ 472

reactant | [4-(8-methoxy-3-methyl-2,3,4,5-tetrahydro-1-H-3-benzazepine-7-sulfonyl)-phenyl]-methanol | COC=1C(=CC2=C(CCN(CC2)C)C1)S(=O)(=O)C1=CC=C(C=C1)CO | C19H23NO4S
reactant | 4-chlorophenol | 0.042 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.066 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 7-[4(4-Chloro-phenoxymethyl)-benzenesulfonyl]-8-methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.ClC1=CC=C(OCC2=CC=C(C=C2)S(=O)(=O)C2=CC3=C(CCN(CC3)C)C=C2OC)C=C1 | InChI=1S/C25H26ClNO4S.ClH/c1-27-13-11-19-15-24(30-2)25(16-20(19)12-14-27)32(28,29)23-9-3-18(4-10-23)17-31-22-7-5-21(26)6-8-22;/h3-10,15-16H,11-14,17H2,1-2H3;1H
